US07605171B2
Step A: Ethyl 5-cyano-6-hydroxynicotinate
To a solution of 716 mg (2.44 mmol) of ethyl 6-hydroxy-5-iodonicotinate and 573 mg (4.88 mmol) of zinc cyanide in 10 mL of DMF was added 169 mg (0.15 mmol) of tetrakis(triphenylphosphine)palladium(0). After stirring at 80° C. overnight, the mixture was filtered through a cake of Celite. The filtrate was washed with brine (10 mL), H2O (3×10 mL), and brine (10 μL), dried over MgSO4, and concentrated. Chromatography on a Biotage 40M cartridge using 4:1 v/v EtOAc/hexanes as the eluant gave 222 mg of the title compound: 1H NMR (500 MHz, CD3OD) δ 1.29 (d, J=7.1, 3H), 4.28 (q, J=7.1, 2H), 8.31 (d, J=2.5, 1H), 8.42 (d, J=2.8, 1H).

reactant | ethyl 6-hydroxy-5-iodonicotinate | 2.44 mmol, 716 mg | OC1=NC=C(C(=O)OCC)C=C1I | C8H8INO3
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 4.88 mmol, 573 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.15 mmol, 169 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 5-cyano-6-hydroxynicotinate | 222 mg | C(#N)C=1C(=NC=C(C(=O)OCC)C1)O | C9H8N2O3
